US08557741B2
Step 4: Synthesis of 3-fluoro-4-(methylsulfanyl)-2-(trifluoromethyl)benzoic acid
21.0 g (72.98 mmol) of 1-bromo-3-fluoro-4-(methylsulfanyl)-2-(trifluoromethyl)benzene were dissolved in 275 ml of absolute diethyl ether and cooled to −78° C. 54.8 ml (87.59 mmol) of a 1.6M solution of n-butyllithium in hexane were slowly added dropwise, and the resulting solution was stirred at −78° C. for 60 minutes. The reaction mixture was then added to freshly ground dry ice and slowly warmed to RT. Water was added, and the reaction mixture was made alkaline using 2M NaOH solution and washed with diethyl ether. The aqueous phase was then acidified with 51M HCl solution, causing the product to precipitate. The precipitate was filtered off with suction and dried under reduced pressure.

reactant | 1-bromo-3-fluoro-4-(methylsulfanyl)-2-(trifluoromethyl)benzene | 72.98 mmol, 21.0 g | BrC1=C(C(=C(C=C1)SC)F)C(F)(F)F | C8H5BrF4S
reactant | n-butyllithium | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | NaOH | 2M | [OH-].[Na+]
solvent | diethyl ether | 275 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | 3-fluoro-4-(methylsulfanyl)-2-(trifluoromethyl)benzoic acid | FC=1C(=C(C(=O)O)C=CC1SC)C(F)(F)F | C9H6F4O2S
